US09056914B2
To a solution of 180 mg of ethyl 4-[2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethylamino]-butanoate in 18 ml of acetonitrile was added 207 mg of 1-iodo-2-[2-(2-methoxy-ethoxy)-ethoxy]-ethane and 192 μl of diisopropylethylamine. The mixture was heated for 3 days at 80° C. and then concentrated under reduced pressure and purified by flash chromatography on silica (Merck SuperVarioFlash 15 g column, Si60 15-40 μm), using a DCM/MeOH/water mixture (40/5/0.5). The fractions containing the desired product were combined and concentrated under reduced pressure. 51 mg of ethyl 4-([2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethyl]-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethyl}-amino)-butanoate were obtained. LC/MS (B): tr=0.70 min; [M+H]+: m/z 459.

reactant | ethyl 4-[2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethylamino]-butanoate | 180 mg | OCC1=NC(=CC(=C1)OCCNCCCC(=O)OCC)CO | C15H24N2O5
reactant | 1-iodo-2-[2-(2-methoxy-ethoxy)-ethoxy]-ethane | 207 mg | ICCOCCOCCOC | C7H15IO3
reactant | diisopropylethylamine | 192 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 18 ml | C(C)#N | C2H3N
product | ethyl 4-([2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethyl]-{2-[2-(2-methoxy-ethoxy)-ethoxy]-ethyl}-amino)-butanoate | 51 mg | OCC1=NC(=CC(=C1)OCCN(CCCC(=O)OCC)CCOCCOCCOC)CO | C22H38N2O8
